data/rdb19/train.csv
rxn,smiles,ea
4464,[C:13]([C:14]([C:15]([H:16])[H:17])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])[H:11])([C:4](=[O:5])[O:6][H:12])[C:15]([C:14]([C:13]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:16])[H:17])([H:7])([H:8])[H:9],18.274117239168845
2588,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:25]1([H:39])[C:24]([C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([C:23]([H:36])([H:37])[H:38])[H:35])[C:29]([H:43])=[C:28]([H:42])[C:27]([H:41])=[C:26]1[H:40],36.49023581505753
720,[C:19]([C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6][C:20]([C:19]([H:23])([H:24])[H:25])([H:21])[H:22])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],34.05679101808346
5578,[C:11]([C:12]([C:13]([H:14])[H:15])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:19])([H:20])[H:21].[C:1](=[C:2]([N:3]([C:4](=[O:5])[H:10])[H:9])[H:8])([H:6])[H:7]>>[C:1](=[C:2]([N:3]([C:4]=[O:5])[H:9])[H:8])([H:6])[H:7].[H:10][C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:14])[H:15],14.778668834711423
3748,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21][C:22](=[O:23])[H:34])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][H:33],56.54485954943812
3171,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])[C:25](=[O:26])[O:27][C:28]([H:37])([H:38])[H:39])([H:32])[H:33])([H:29])([H:30])[H:31]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:15])([H:16])([H:17])[C:23]([C:22]([C:21]([H:29])([H:30])[H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[C:25](=[O:26])[O:27][C:28]([H:37])([H:38])[H:39],57.22748170158593
1575,[C:1]([C:2]([C:3]([H:4])([H:5])[C:18]([O:17][C:16]([C:15]([H:22])([H:23])[H:24])([H:25])[H:26])([O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:5])[C:18]([O:17][C:16]([C:15]([H:22])([H:23])[H:24])([H:25])[H:26])([O:19][H:4])[C:20](=[C:21]([H:28])[H:29])[H:27])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],26.581290017231368
3078,[C:16]([C:17]([C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])[H:29])([H:26])([H:27])[H:28].[C:1]([H:8])([H:9])([H:10])[H:30].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12],83.43419210624415
4840,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[C:19]1([H:27])[C:18]([H:26])=[C:17]([C:16](=[C:15]([H:23])[H:24])[H:25])[C:22]([H:30])=[C:21]([H:29])[C:20]1[H:28])[H:11])([H:8])([H:9])[H:10],20.60685913817724
2449,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[O:10])[O:11][C:12](=[C:13]([H:18])[H:19])[H:17])([H:14])([H:15])[H:16]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[C:8]([C:9]=[O:10])([H:14])([H:15])[H:16].[H:5][O:11][C:12](=[C:13]([H:18])[H:19])[H:17],76.47067348298151
504,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:20])([H:21])[H:22])([N:11]([C:12](=[O:13])[H:24])[H:23])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([O:2][O:3][H:20])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:21])[H:22])([N:11]([C:12](=[O:13])[H:24])[H:23])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16],28.30197644449072
